US04411899
3-(2,2-Dimethoxy-1-propoxy)N,N-dimethylbenzamide
3-Hydroxybenzamide can be added to a stirred suspension of sodium hydride (1.0 g 50% in nujol, 20 mmol) in 20 ml of dry N,N-dimethylformamide under N2. The mixture can then be stirred until hydrogen evolution ceases and then treated with 1-bromo-2,2-dimethoxy propane at room temperature. After refluxing 10 hours, the mixture can be diluted with water to obtain the title compound.

reactant | 3-Hydroxybenzamide | OC=1C=C(C(=O)N)C=CC1 | C7H7NO2
reactant | sodium hydride | 20 mmol, 1.0 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 1-bromo-2,2-dimethoxy propane | BrCC(C)(OC)OC | C5H11BrO2
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-(2,2-Dimethoxy-1-propoxy)N,N-dimethylbenzamide | COC(COC=1C=C(C(=O)N(C)C)C=CC1)(C)OC | C14H21NO4
